US07989449B2
1-Methoxy-4-{1-[3-(3-methoxy-benzyloxy)-phenyl]-vinyl}-2-methyl-benzene
To a solution of 3-[1-(4-methoxy-3-methyl-phenyl)-vinyl]-phenol (400 mg, 1.67 mmol, 1.0 eq) in 3 mL of dry N,N-dimethylformamide, anhydrous cesium carbonate was added (1.08 g, 3.33 mmol, 2.0 eq.) and the mixture was stirred for 20 min at room temperature. After this time, 3-methoxybenzylbromide (167 mg, 0.832 mmol, 1.2 eq.) was added and the resulting mixture was further stirred for 16 hours at 50° C. The reaction mixture was examined LC-MS which showed>90% conversion to the desired product. The reaction mixture was cooled to room temperature, 10 mL of water was added and the mixture was extracted with DCM. The organic fraction was dried over sodium sulfate and the crude product was purified by flash chromatography eluting with cyclohexane/ethylacetate (100:0 to 90:10). 408 mg of clean product was obtained as colorless liquid (yield: 95%)

reactant | 3-[1-(4-methoxy-3-methyl-phenyl)-vinyl]-phenol | 1.67 mmol, 400 mg, 1.0 eq | COC1=C(C=C(C=C1)C(=C)C=1C=C(C=CC1)O)C | C16H16O2
reactant | 3-methoxybenzylbromide | 0.832 mmol, 167 mg, 1.2 eq. | COC=1C=C(CBr)C=CC1 | C8H9BrO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
product | 1-Methoxy-4-{1-[3-(3-methoxy-benzyloxy)-phenyl]-vinyl}-2-methyl-benzene | COC1=C(C=C(C=C1)C(=C)C1=CC(=CC=C1)OCC1=CC(=CC=C1)OC)C | C24H24O3
